US05104869
To a stirred mixture of 17.4 g of diethyl succinate, 19.6 g of 3,4,5-trimethoxybenzaldehyde in 175 ml of ethanol chilled to 0° C. under argon was added 5.0 g of sodium hydride (60% in oil) in three equal portions. The solution was then refluxed for 30 minutes and 125 ml of 2N sodium hydroxide added. The solution was refluxed for 2 hours and concentrated under vacuum. The residue was diluted with water, extracted with ether and the aqueous layer acidified with concentrated hydrochloric acid. The mixture was extracted three times with 45 ml of ether and the ether extracts washed with saturated sodium chloride solution. The ether layer was dried (MgSO4) and the solvent removed under vacuum to give 24.82 g of [(3,4,5-trimethoxyphenyl)methylene]butanedioic acid as a yellow oil.

reactant | diethyl succinate | 17.4 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | 3,4,5-trimethoxybenzaldehyde | 19.6 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | sodium hydride | 5.0 g | [H-].[Na+]
reactant | sodium hydroxide | 2N, 125 ml | [OH-].[Na+]
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | [(3,4,5-trimethoxyphenyl)methylene]butanedioic acid | 24.82 g | COC=1C=C(C=C(C1OC)OC)C=C(C(=O)O)CC(=O)O | C14H16O7
